US06362188B1
4-Hydroxymethylisoquinoline
4-Isoquinolinecarboxaldehyde (1 mmole) (prepared by the method of: J. B. Wommack, T. G. Barbee, Jr., D. J. Thoennes, M. A. McDonald and D. E. Pearson, J. Heterocyclic Chem., 1969, 6, 243-245.) is dissolved in anhydrous THF (50 mL) and treated with borane-methyl sulfide (0.3 mmoles) (as described in: E. Mincione, J. Org. Chem., 1978, 43, 1829-1830) at 0° C. for 0.5-1 h and worked up in the usual way to give the title compound.

reactant | 4-Isoquinolinecarboxaldehyde | 1 mmole | C1=NC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | borane methyl sulfide | 0.3 mmoles | B.CSC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-Hydroxymethylisoquinoline | OCC1=CN=CC2=CC=CC=C12 | C10H9NO
